US09340549B2
A microwave vial was charged with (S)-4-(4-fluorophenyl)-5,5-dimethyloxazolidin-2-one (0.050 g, 0.239 mmol), 4-iodo-N-(quinolin-8-yl)benzamide (0.098 g, 0.263 mmol), tribasic potassium phosphate (0.254 g, 1.195 mmol) and dioxane (2.50 mL). The mixture was purged with argon and then copper (I) iodide (0.046 g, 0.239 mmol) and N,N′-dimethylethylenediamine (0.051 mL, 0.478 mmol) were added. The system was purged with argon, the tube was sealed, and the reaction mixture was heated at 140° C. for 2 hours in the microwave. The reaction mixture was filtered through Celite® brand filter aid, and the filtrate was concentrated to afford an orange brown solid. The residual material was purified using column chromatography on silica gel (RediSep 40 g column, gradient elution with 0-50% EtOAc-hexane) to afford (S)-4-(4-(4-fluorophenyl)-5,5-dimethyl-2-oxooxazolidin-3-yl)-N-(quinolin-8-yl)benzamide (0.097 g, 0.213 mmol, 89% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.95 (s, 3H) 1.66 (s, 3H) 5.60 (s, 1H) 7.16-7.29 (m, 2H) 7.36 (br. s., 2H) 7.58-7.81 (m, 5H) 7.97 (d, J=8.80 Hz, 2H) 8.45 (dd, J=8.31, 1.66 Hz, 1H) 8.67 (dd, J=7.68, 1.32 Hz, 1H) 8.95 (dd, J=4.21, 1.66 Hz, 1H) 10.55 (s, 1H). m/z (ESI) 456 (M+H)+.

reactant | (S)-4-(4-fluorophenyl)-5,5-dimethyloxazolidin-2-one | 0.239 mmol, 0.050 g | FC1=CC=C(C=C1)[C@@H]1NC(OC1(C)C)=O | C11H12FNO2
reactant | 4-iodo-N-(quinolin-8-yl)benzamide | 0.263 mmol, 0.098 g | IC1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1 | C16H11IN2O
reactant | potassium phosphate | 1.195 mmol, 0.254 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-dimethylethylenediamine | 0.478 mmol, 0.051 mL | CNCCNC | C4H12N2
catalyst | copper (I) iodide | 0.239 mmol, 0.046 g | [Cu]I
solvent | dioxane | 2.50 mL | O1CCOCC1 | C4H8O2
product | (S)-4-(4-(4-fluorophenyl)-5,5-dimethyl-2-oxooxazolidin-3-yl)-N-(quinolin-8-yl)benzamide | 0.213 mmol, 0.097 g, 89% yield | FC1=CC=C(C=C1)[C@@H]1N(C(OC1(C)C)=O)C1=CC=C(C(=O)NC=2C=CC=C3C=CC=NC23)C=C1 | C27H22FN3O3
